* eeschema netlist version 1.1 (spice format) creation date: wednesday 15 may 2013 06:59:18 pm ist
.include npn.lib

V_u2 4 3 0
v1  1 0 dc 15
v2  0 5 dc 15
* Plotting option vplot8_1
q1 3 0 2 npn
r1  1 4 5k
r2  2 5 7.07k

.dc  v2 0e-00 15e-00 15e-00

* Control Statements 
.control
run
plot i(V_u2)
plot v(3) 
.endc
.end
